US08183380B2
4-Methyl-piperazine-1-sulfonic acid [2-((R)-indan-1-ylamino)-quinolin-6-yl]-amide
The title compound was prepared in accordance with the general method described in example 66 from 4-methyl-piperazine-1-sulfonyl chloride and (R)—N2-indan-1-yl-quinoline-2,6-diamine; MS: m/e=438.8 (M+H+).

reactant | 4-methyl-piperazine-1-sulfonyl chloride | CN1CCN(CC1)S(=O)(=O)Cl | C5H11ClN2O2S
reactant | (R)—N2-indan-1-yl-quinoline-2,6-diamine | [C@H]1(CCC2=CC=CC=C12)NC1=NC2=CC=C(C=C2C=C1)N | C18H17N3
product | 4-Methyl-piperazine-1-sulfonic acid [2-((R)-indan-1-ylamino)-quinolin-6-yl]-amide | [C@H]1(CCC2=CC=CC=C12)NC1=NC2=CC=C(C=C2C=C1)NS(=O)(=O)N1CCN(CC1)C | C23H27N5O2S
